US06140100
According to example 54, 0.50 g of 3-tert-butyl-L-phenylalanine·HCl was treated with 30 mL of isobutylene in 25 mL of 1,4-dioxane in the presence of 0.4 mL of conc. H2SO4. Work-up in the usual manner followed by acidification of the free amine with ethereal HCl afforded 0.53 g (87%) of tert-butyl 3-tert-butyl-L-phenylalaninate·HCl as a light yellow foam.

reactant | 3-tert-butyl-L-phenylalanine·HCl | 0.50 g | C(C)(C)(C)C=1C=C(C[C@H](N)C(=O)O)C=CC1.Cl
reactant | isobutylene | 30 mL | CC(C)=C | C4H8
reactant | H2SO4 | 0.4 mL | OS(=O)(=O)O | H2O4S
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 3-tert-butyl-L-phenylalaninate·HCl | 0.53 g, 87% | C(C)(C)(C)C=1C=C(C[C@H](N)C(=O)OC(C)(C)C)C=CC1.Cl | InChI=1S/C17H27NO2.ClH/c1-16(2,3)13-9-7-8-12(10-13)11-14(18)15(19)20-17(4,5)6;/h7-10,14H,11,18H2,1-6H3;1H/t14-;/m0./s1
